US07816557B2
Step D. 3-(4-{3,3-Dimethyl-1-[5-methyl-6-(4-trifluoromethoxy-phenyl)-pyridin-3-yloxy]-butyl}-benzoylamino)-propionic acid methyl ester
3-{4-[1-(6-Chloro-5-methyl-pyridin-3-yloxy)-3,3-dimethyl-butyl]-benzoylamino}-propionic acid methyl ester (200 mg, 0.46 mmol), potassium fluoride (80 mg, 1.38 mmol), 4-trifluoromethoxyphenyl boronic acid (190 mg, 0.92 mmol) and tetrakis(triphenylphosphine)palladium (53 mg, 0.046 mmol) are placed in a flask. After the reaction is purged with N2 for several times, THF/H2O (20 ml/5 ml) is added. The resulting solution is refluxed overnight, loaded on silica gel, eluted with hexane and ethyl acetate to give the titled compound (220 mg).

reactant | 3-{4-[1-(6-Chloro-5-methyl-pyridin-3-yloxy)-3,3-dimethyl-butyl]-benzoylamino}-propionic acid methyl ester | 0.46 mmol, 200 mg | COC(CCNC(C1=CC=C(C=C1)C(CC(C)(C)C)OC=1C=NC(=C(C1)C)Cl)=O)=O | C23H29ClN2O4
reactant | potassium fluoride | 1.38 mmol, 80 mg | [F-].[K+]
reactant | 4-trifluoromethoxyphenyl boronic acid | 0.92 mmol, 190 mg | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
catalyst | tetrakis(triphenylphosphine)palladium | 0.046 mmol, 53 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-{3,3-Dimethyl-1-[5-methyl-6-(4-trifluoromethoxy-phenyl)-pyridin-3-yloxy]-butyl}-benzoylamino)-propionic acid methyl ester | 220 mg | COC(CCNC(C1=CC=C(C=C1)C(CC(C)(C)C)OC=1C=NC(=C(C1)C)C1=CC=C(C=C1)OC(F)(F)F)=O)=O | C30H33F3N2O5
